data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
506,553,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([CH3:17])[NH+:18]=[CH:19][C:20]#[N:21].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[CH:19]([C:20]#[N:21])[NH:18][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[CH3:17],water,298.15,18.49601642325677,-29.837984957937284
2216,2457,[CH3:18][NH:19][C:20](=[O:21])[N-:22][N+:23]([CH3:24])=[C:25]([C:26]([CH3:27])=[O:28])[C:29](=[O:30])[O:31][CH3:32].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:25]([C:26]([CH3:27])=[O:28])([C:29](=[O:30])[O:31][CH3:32])[N:23]([CH3:24])[N:22]2[C:20]([NH:19][CH3:18])=[O:21],water,298.15,23.416519621307568,-10.460211238773171
3339,3787,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[CH:9]=[NH+:10][CH-:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[NH:10][CH:9]1[C:7]([NH:6][CH3:5])=[O:8],water,298.15,20.065282629191145,-27.92941038434498
428,466,[CH3:11][C:12](=[O:13])[c-:14]1[c:15](=[O:16])[o:17][n:18][n+:19]1[CH3:20].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[N:18]1[O:17][C:15](=[O:16])[C:14]2([C:12]([CH3:11])=[O:13])[N:19]1[CH3:20],water,298.15,37.44325286308376,9.787521818074705
2980,3332,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10]#[N+:11][CH-:12][C:13]#[N:14]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[CH:12]([C:13]#[N:14])[N:11]=[C:10]2[CH3:9],water,298.15,3.6283572666633455,-41.90851035311309
3429,3899,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([NH+:10]=[C:11]([CH3:12])[CH3:13])[C:14](=[O:15])[NH:16][CH3:17]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:14](=[O:15])[NH:16][CH3:17])[NH:10][C:11]1([CH3:12])[CH3:13],water,298.15,30.632656501848302,-20.480494506094274
3492,3976,[CH2-:9][N+:10]([CH3:11])=[C:12]([C:13]([CH3:14])=[O:15])[C:16]([CH3:17])=[O:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH2:9][N:10]([CH3:11])[C:12]1([C:13]([CH3:14])=[O:15])[C:16]([CH3:17])=[O:18],water,298.15,23.56754726293904,-10.4753738618631
1367,1504,[CH3:15][O:16][C:17](=[O:18])[c-:19]1[c:20](=[O:21])[o:22][c:23]([CH3:24])[n+:25]1[CH3:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:23]1([CH3:24])[O:22][C:20](=[O:21])[C:19]3([C:17]([O:16][CH3:15])=[O:18])[N:25]1[CH3:26],water,298.15,25.266748806892146,-12.442548615654273
993,1082,[CH3:10][NH:11][C:12](=[O:13])[CH-:14][N+:15]([CH3:16])=[C:17]([CH3:18])[C:19](=[O:20])[NH:21][CH3:22].[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:17]([CH3:18])([C:19](=[O:20])[NH:21][CH3:22])[N:15]([CH3:16])[CH:14]2[C:12]([NH:11][CH3:10])=[O:13],water,298.15,18.151385757444924,-33.405718285113394
2437,2705,[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]#[C:12][C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][N-:21][N+:22]#[C:23][C:24](=[O:25])[NH:26][CH3:27]>>[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[c:11]2[c:12]([c:23]([C:24](=[O:25])[NH:26][CH3:27])[n:22][n:21]2[CH3:20])[C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1,water,298.15,17.276510749010683,-80.21474941725148
4865,5548,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[N:11]#[C:12][C-:13]([O+:14]=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[O:14][C:13]2([C:12]#[N:11])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,7.0742028377510495,-26.114677550794035
2936,3274,[CH2:1]=[CH2:2].[CH2:3]=[N+:4]([CH3:5])[C-:6]([CH3:7])[C:8](=[O:9])[NH:10][CH3:11]>>[CH2:1]1[CH2:2][C:6]([CH3:7])([C:8](=[O:9])[NH:10][CH3:11])[N:4]([CH3:5])[CH2:3]1,water,298.15,13.831691960830906,-42.23959678097779
1676,1848,[CH3:15][O:16][C:17](=[O:18])[C-:19]([C:20]#[N:21])[N+:22]#[C:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:20]#[N:21])[N:22]=[C:23]2[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,16.429419266536307,-22.33499620540739
